US07524852B2
Synthesis of 2-(pyrrolidin-1-ylmethyl)morpholine for use in the synthesis of Compound 20-3
4-Benzyl-2-(pyrrolidin-1-ylmethyl)morpholine (450 mg, 1.73 mmol) prepared according to Process Step 1 was dissolved in ethanol (10 mL), and 20% palladium hydroxide-carbon (200 mg, 0.285 mmol) was suspended therein, followed by stirring under the hydrogen gas atmosphere for two days. Celite (registered trademark: 2.0 g) was suspended in the reaction mixture, the solid was separated by filtration, and the solvent was distilled off under reduced pressure from the filtrate. The residue was purified by silica gel column chromatography (chloroform:methanol=5:1) and thereby yielded 2-(pyrrolidin-1-ylmethyl)morpholine (280 mg, in a yield of 95%).

reactant | 4-Benzyl-2-(pyrrolidin-1-ylmethyl)morpholine | 1.73 mmol, 450 mg | C(C1=CC=CC=C1)N1CC(OCC1)CN1CCCC1 | C16H24N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium hydroxide carbon | 0.285 mmol, 200 mg | [OH-].[Pd+2].[OH-].[C]
product | 2-(pyrrolidin-1-ylmethyl)morpholine | yield of 95% | N1(CCCC1)CC1CNCCO1 | C9H18N2O
